US08633173B2
4-{4-[8-(2-Fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(2-fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridine (0.248 g, 0.893 mmol) and 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.296 g, 1.07 mmol) in a manner analogous to Example 311a and 311b to give product (0.312 g, 67%). MP=98-102° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.63 (s, 1H), 8.83 (d, 1H), 7.60 (m, 3H), 7.25 (m, 3H), 7.10 (m, 3H), 4.05 (m, 2H), 3.90 (s, 3H), 2.80 (br m, 2H), 2.60 (m, 1H), 1.45 (m, 2H), 1.75 (m, 2H), 1.41 (s, 9H). MS=518 (MH)+.

reactant | 2-chloro-8-(2-fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridine | 0.893 mmol, 0.248 g | ClC1=NN2C(C(=CC=C2)C2=C(C(=CC=C2)OC)F)=N1 | C13H9ClFN3O
reactant | 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.07 mmol, 0.296 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O2
product | 4-{4-[8-(2-Fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=C(C(=CC=C2)OC)F)=N1 | C29H32FN5O3
